Simulation 10 periods

*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* input voltage source
vS 1 2 0 sin(0 30 50)

Re 4 0 1k
C 4 0 1m
Rv 4 5 100k

D1 0 1 Default
D2 1 3 Default
D3 0 2 Default
D4 2 3 Default
De 3 4 Default

D5 5 6 Default
D6 6 7 Default
D7 7 8 Default
D8 8 9 Default
D9 9 10 Default
D10 10 11 Default
D11 11 12 Default
D12 12 13 Default
D13 13 14 Default
D14 14 15 Default
D15 15 16 Default
D16 16 17 Default
D17 17 18 Default
D18 18 19 Default
D19 19 20 Default
D20 20 21 Default
D21 21 0 Default

.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-4 125.5m 25.5m

echo "op_TAB"
print mean(v(5))
print maximum(v(5))-minimum(v(5))
echo "op_END"

hardcopy ende.ps {v(4)} {v(5)}
echo ende_FIG

* hardcopy vore.ps {v(5)}
* echo vore_FIG

hardcopy deviation.ps {v(5)-12}
echo deviation_FIG

quit
.endc

.end
