Simulation 10 periods

*
* NGSPICE simulation script
* AC/DC Converter
*

* forces current values to be saved
.options savecurrents

* input voltage source
vS 1 2 0 sin(0 30 50)

Re 4 0 1k
C 4 0 1m
Rv 4 5 1k

D1 0 1 Default
D2 1 3 Default
D3 0 2 Default
D4 2 3 Default
De 3 4 Default

*D5 5 6 Default
*D6 6 7 Default
*D7 7 8 Default
*D8 8 9 Default
*D9 9 10 Default
*D10 10 11 Default
*D11 11 12 Default
*D12 12 13 Default
*D13 13 14 Default
*D14 14 15 Default
*D15 15 16 Default
*D16 16 17 Default
*D17 17 18 Default
*D18 18 19 Default
*D19 19 20 Default
*D20 20 21 Default
*D21 21 0 Default

Dv 5 0 voltage_diode
.MODEL voltage_diode D (N=17)

.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-4 125.5m 25.5m

echo "op_TAB"
print mean(v(5))
print maximum(v(5))-minimum(v(5))
echo "op_END"

hardcopy ende.ps {v(4)} {v(5)}
echo ende_FIG

* hardcopy vore.ps {v(5)}
* echo vore_FIG

hardcopy deviation.ps {v(5)-12}
echo deviation_FIG

quit
.endc

.end
